US07399759B2
2-(6-Ethoxy-3-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (1.85 g, 11.0 mmol), 2-ethoxy-5-cyanopyridine (1.48 g, 10.0 mmol), triethylamine (1.80 ml, 12.9 mmol) and toluene (10 ml) was refluxed under nitrogen atmosphere for 18 hrs. The reaction mixture was concentrated. The residue was combined with water and extracted with ethyl acetate. The extract was washed with water and dried. The solvent was evaporated. The residue was subjected to a silica gel column chromatography, eluted with ethyl acetate-hexane (2:1, v/v) and recrystallized from chloroform-ethyl acetate to give the titled compound (0.56 g, 20%).

reactant | methyl thiosalicylate | 11.0 mmol, 1.85 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-ethoxy-5-cyanopyridine | 10.0 mmol, 1.48 g | C(C)OC1=NC=C(C=C1)C#N | C8H8N2O
reactant | triethylamine | 12.9 mmol, 1.80 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Ethoxy-3-pyridyl)-4H-1,3-benzothiazine-4-one | 0.56 g, 20% | C(C)OC1=CC=C(C=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C15H12N2O2S
